US07345178B2
A suspension of 4-aminopyridine-3-carboxylic acid 4-amino nicotinic acid (1.12 g, 8.2 mmol) with 1,2-diaminobenzene (1.77 mg, 16.4 mmol) was heated in 8 mL of PPA at 180 degrees for 2 h. The reaction mixture was poured into 250 mL ice-water and neutralized with 2 N ice-cold NaOH during vigorous stirring. The resulting precipitate was filtered and washed with 20 mL warm water to afford 1.35 grams of pure corresponding 3-(1H-benzo[d]imidazol-2-yl)pyridin-2-amine (MS, M++H=211.1).

reactant | 4-aminopyridine-3-carboxylic acid 4-amino nicotinic acid | 8.2 mmol, 1.12 g | NC1=CC=NC=C1C(=O)O.NC1=C(C=NC=C1)C(=O)O | 2C6H6N2O2
reactant | 1,2-diaminobenzene | 16.4 mmol, 1.77 mg | NC1=C(C=CC=C1)N | C6H8N2
product | 3-(1H-benzo[d]imidazol-2-yl)pyridin-2-amine | 1.35 grams | N1C(=NC2=C1C=CC=C2)C=2C(=NC=CC2)N | C12H10N4
